US07019003B2
(4S)-Benzyl-3-heptanoyl-oxazolidin-2-one
To a solution of (S)-(−)-4-benzyl-2-oxazolidinone (3.3 g, 18.6 mmol) in THF (50 mL) at −78° C. was added dropwise n-BuLi (7.4 mL, 2.5M solution in hexane, 18.6 mmol). After stirring for 30 min at the same temperature, the reaction mixture was then treated with heptanoyl chloride (2.76 g, 18.6 mmol). The reaction mixture was stirred and allowed to warm to 10° C. over 5 h, and then quenched with saturated aqueous NH4Cl solution (100 mL). The aqueous layer was extracted with EtOAc (100 mL×2). The combined organic layers were washed with brine, and dried over MgSO4. Removal of the solvent under reduced pressure yielded 4.63 g (86%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.37-7.22 (m, 5H), 4.69 (m, 1H), 4.19 (m, 2H), 3.31 (dd, J=13.4, 3.3 Hz, 1H), 2.95 (m, 2H), 2.79 (dd, J=13.4, 9.7 Hz, 1H), 1.71 (m, 2H), 1.42-1.32 (m, 6H), 0.92 (t, J=6.8 Hz, 3H). MH+290.

reactant | (S)-(−)-4-benzyl-2-oxazolidinone | 18.6 mmol, 3.3 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-BuLi | 18.6 mmol, 2.5M, 7.4 mL | [Li]CCCC
reactant | heptanoyl chloride | 18.6 mmol, 2.76 g | C(CCCCCC)(=O)Cl | C7H13ClO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4S)-Benzyl-3-heptanoyl-oxazolidin-2-one | 4.63 g, 86% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCCCCC)=O | C17H23NO3
